US07402581B2
6-Cyanoindane-4-carboxylic acid (150 mg, 0.8 mmol) and oxalyl chloride (130 mg, 1.0 mmol) were mixed with CH2Cl2 (20 mL) whereupon DMF (100 mg) was added. After 1 h at room temperature [(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]methylamine (Bioorg. Med. Chem. Lett; 2001; 265-270; 200 mg, 1.0 mmol) and triethylamine (200 mg, 2.0 mmol) were added to the mixture in the given order. The mixture was stirred at room temperature for 20 min and then the solvent was evaporated. The product was purified by chromatography on silica gel using hexane and ethyl acetate (1:1). There was obtained 180 mg (62%) of 6-cyano-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methylindane-4-carboxamide as an oil. 1H NMR (300 MHz, CDCl3): 2.0-2.1 (m, 2H), 2.2 (t, 1H), 2.4 (m, 2H), 2.6 (s, 4H), 2.8-3.4 (m, 4H), 3.7 (dd, 1H), 3.8-3.9 (dd, 1H), 4.9-5.1 (m, 2H), 5.4-5.8 (m, 1H), 6.8-7.1 (m, 4H), 7.2 (m, 1H), 7.5 (s, 1H).

reactant | 6-Cyanoindane-4-carboxylic acid | 0.8 mmol, 150 mg | C(#N)C=1C=C(C=2CCCC2C1)C(=O)O | C11H9NO2
reactant | oxalyl chloride | 1.0 mmol, 130 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | [(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]methylamine | 1.0 mmol, 200 mg | FC1=CC=C(C=C1)[C@@H](CNC)CC=C | C12H16FN
reactant | triethylamine | 2.0 mmol, 200 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 mg | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-cyano-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methylindane-4-carboxamide | 180 mg, 62% | C(#N)C=1C=C(C=2CCCC2C1)C(=O)N(C)C[C@@H](CC=C)C1=CC=C(C=C1)F | C23H23FN2O
